US08034812B2
Production of 1,3-dimethyl-N-[2-methyl-5-({2-[(3-methylbut-2-enoyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1H-pyrazole-5-carboxamide
In the same manner as in Example 264 and using N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride (200 mg, 0.48 mmol), 3-methylbut-2-enoylchloride (81 μL, 0.73 mmol) and N,N-dimethylacetamide (5 mL) as starting materials, the title compound (150 mg, 68%) was obtained as a pale-yellow solid.

reactant | N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride | 0.48 mmol, 200 mg | Cl.NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)C1
reactant | 3-methylbut-2-enoylchloride | 0.73 mmol, 81 μL | CC(=CC(=O)Cl)C | C5H7ClO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 1,3-dimethyl-N-[2-methyl-5-({2-[(3-methylbut-2-enoyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1H-pyrazole-5-carboxamide | 150 mg, 68% | CN1N=C(C=C1C(=O)NC1=C(C=CC(=C1)OC=1C=CC=2N(N1)C=C(N2)NC(C=C(C)C)=O)C)C | C24H25N7O3
